US06376555B1
Preparation of 4-[3,4-dioxo-2-(1,2,2-trimethyl-propylamino)-cyclobut-1-enyl]-benzonitrile.
To a solution of 3-isopropoxy-4-(4-cyano-phenyl)-cyclobut-3-ene-1,2-dione (0.27 g, 1.12 mmol) in acetonitrile (6 mL) was added 2-amino-3,3-dimethylbutane (0.23 mL, 1.68 mmol). The mixture was stirred at room temperature overnight then filtered. The solid was recrystallized from ethyl acetate/hexanes to give 0.160 g (50%) of the title product as a white solid: m.p. 192-194° C.; 1H NMR (DMSO-d6) δ 9.01(br d,1H), 8.19(ABq,2H), 8.01(ABq,2H), 4.29(m,1H), 1.25(d,3H), 0.92(s,9H); IR (KBr) 3160, 2950, 2220, 1760, 1600, 1440, 1160, 1100, 850 cm−1; MS (m/z) 282 [M+].

reactant | 3-isopropoxy-4-(4-cyano-phenyl)-cyclobut-3-ene-1,2-dione | 1.12 mmol, 0.27 g | C(C)(C)OC=1C(C(C1C1=CC=C(C=C1)C#N)=O)=O | C14H11NO3
reactant | 2-amino-3,3-dimethylbutane | 1.68 mmol, 0.23 mL | NC(C)C(C)(C)C | C6H15N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 4-[3,4-dioxo-2-(1,2,2-trimethyl-propylamino)-cyclobut-1-enyl]-benzonitrile | 0.160 g, 50% | O=C1C(=C(C1=O)C1=CC=C(C#N)C=C1)NC(C(C)(C)C)C | C17H18N2O2
